US05543409
20 m of a 25% hydrogen bromide-acetic acid solution was added to 4.00 g of 2-butyrylamino-5-[4,5-dihydropyridazin-3(2H)-on-6-yl]indane suspended in 45 ml of acetic acid, and then 1.14 ml of dimethyl sulfoxide was added to the mixture. The resulting mixture was stirred at room temperature for 3.5 hours. Hydrogen bromide-acetic acid was removed, and the residue was recrystallized from hydrous ethanol to obtain 3.50 g of 2-butyrylamino-5-[pyridazin-3(2H)-on-6-yl]indane.

reactant | hydrogen bromide acetic acid | Br.C(C)(=O)O
reactant | 2-butyrylamino-5-[4,5-dihydropyridazin-3(2H)-on-6-yl]indane | 4.00 g | C(CCC)(=O)NC1CC2=CC=C(C=C2C1)C=1CCC(NN1)=O | C17H21N3O2
reactant | dimethyl sulfoxide | 1.14 ml | CS(=O)C | C2H6OS
solvent | acetic acid | 45 ml | C(C)(=O)O | C2H4O2
product | 2-butyrylamino-5-[pyridazin-3(2H)-on-6-yl]indane | 3.50 g | C(CCC)(=O)NC1CC2=CC=C(C=C2C1)C=1C=CC(NN1)=O | C17H19N3O2
